US05935972
5-Tetrazol-1-yl-benzofuran-7-carbaldehyde
N-Bromosuccinimide (180 mg) was added to a hot solution of 1-(7-methyl-benzofuran-5-yl)-1H-tetrazole and azoisobutyronitrile (35 mg) in carbon tetrachloride (10 ml) and the mixture heated at reflux whilst irradiating with a 60 W tungsten lamp for 4 hours. The mixture was evaporated in vacuo, the solid residue dissolved in acetonitrile (5 ml) then added dropwise to a solution of N-methyl morpholine-N-oxide (0.2 g) in acetonitrile (10 ml) containing 4 Å sieves. The reaction mixture was stirred for 16 h at room temperature, filtered, the solvent removed in vacuo and the residue purified by FCC eluting with ether-hexane (2:1) to give the title compound as a white solid (56 mg) m.p. 174-175°.

reactant | N-Bromosuccinimide | 180 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-(7-methyl-benzofuran-5-yl)-1H-tetrazole | CC1=CC(=CC=2C=COC21)N2N=NN=C2 | C10H8N4O
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tungsten | [W] | W
product | 5-Tetrazol-1-yl-benzofuran-7-carbaldehyde | 56 mg | N1(N=NN=C1)C=1C=C(C2=C(C=CO2)C1)C=O | C10H6N4O2
